US08633173B2
2-Chloro-8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-(4-bromo-phenyl)-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3241 mmol) and 1-methyl-4-piperidin-4-yl-piperazine (66.0 mg, 0.360 mmol) in a manner analogous to Example 2d. Product isolated as a pale yellow solid (0.023 g, 17%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.40 (d, J=6.7 Hz, 1H), 7.93 (d, J=8.0 Hz, 2H), 7.64 (d, J=7.4 Hz, 1H), 7.10 (t, J=6.8 Hz, 1H), 7.03 (d, J=8.3 Hz, 2H), 3.87 (d, J=12.5 Hz, 2H), 2.82 (t, J=12.6 Hz, 2H), 2.70-2.35 (m, 9H), 2.30 (s, 3H), 1.95 (d, J=11.9 Hz, 2H), 1.75-1.60 (m, 2H). MS=411 (MH)+.

reactant | 8-(4-bromo-phenyl)-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.3241 mmol, 100.0 mg | BrC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)Cl | C12H7BrClN3
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 0.360 mmol, 66.0 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | 2-Chloro-8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)=N1 | C22H27ClN6
